US07947727B2
2-Chloro-N-ethyl-6-fluoro-N-[3,3,3-trifluoro-2-({[1-(4-fluorophenyl)-6-methyl-1H-indazol-4-yl]amino}methyl)-2-hydroxypropyl]benzamide
Prepared similarly to Example 48 from 2-chloro-6-fluorobenzoylchloride and 3-(ethylamino)-1,1,1-trifluoro-2-({[1-(4-fluorophenyl)-6-methyl-1H-indazol-4-yl]amino}methyl)-2-propanol.

reactant | 2-chloro-6-fluorobenzoylchloride | ClC1=C(C(=O)Cl)C(=CC=C1)F | C7H3Cl2FO
reactant | 3-(ethylamino)-1,1,1-trifluoro-2-({[1-(4-fluorophenyl)-6-methyl-1H-indazol-4-yl]amino}methyl)-2-propanol | C(C)NCC(C(F)(F)F)(O)CNC1=C2C=NN(C2=CC(=C1)C)C1=CC=C(C=C1)F | C20H22F4N4O
product | 2-Chloro-N-ethyl-6-fluoro-N-[3,3,3-trifluoro-2-({[1-(4-fluorophenyl)-6-methyl-1H-indazol-4-yl]amino}methyl)-2-hydroxypropyl]benzamide | ClC1=C(C(=O)N(CC(C(F)(F)F)(O)CNC2=C3C=NN(C3=CC(=C2)C)C2=CC=C(C=C2)F)CC)C(=CC=C1)F | C27H24ClF5N4O2
